US07829560B2
t-Butyl-4-[4-({4-[(3-fluoro-5-morpholin-4-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperazine-1-carboxylate (Compound B340).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and piperazine-1-carboxylic acid t-butyl ester according to conditions described in general procedure C. Mp: 131-133° C.; 1HNMR (400 MHz, DMSO-d6) δ 1.38 (s, 9 H), 3.27-3.34 (m, 8H), 3.50 (bs, 4 H), 3.77 (t, J=4.38 Hz, 4 H), 6.24-25 (m, 1 H), 7.04 (d, J=11.3 Hz, 1 H), 7.26 (d, J=8.4 Hz, 1H), 7.44 (d, J=8.0 Hz, 1H), 7.50 (s, 1H), 7.56-7.63 (m, 3 H), 7.85 (d, J=8.4 Hz, 1H), 8.01 (d, J=8.8 Hz, 1 H), 8.29-8.30 (m, 1 H), 10.48 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | t-Butyl-4-[4-({4-[(3-fluoro-5-morpholin-4-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C34H37FN6O5
